US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (200 mg) is dissolved in N,N-dimethylformamide (3 ml), and thereto are added 2-chloropyrimidine (45 mg) and potassium carbonate (55 mg), and the mixture is stirred at 85° C. overnight. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=41:9→13:7) to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(pyrimidin-2-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (120 mg). MS (m/z): 704 [M+H]+

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 200 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C27H24F9N3O4
reactant | 2-chloropyrimidine | 45 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(pyrimidin-2-yloxy)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 120 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OC2=NC=CC=N2)C=C(C1)C(F)(F)F)(F)F | C31H26F9N5O4
